US08981111B2
To a solution of 3,4-dichloro-N-methoxy-N-methyl-1,2-thiazole-5-carboxamide (3.80 g, 15.7 mmol) in tetrahydrofuran (130 mL) at −5° C. was added dropwise a solution of iodo(3-thienyl)magnesium in tetrahydrofuran (0.3 M, 158 mL, 47.4 mmol). After stirring at room temperature for 72 h, the reaction was worked-up by the addition of aq. HCl (1 M) until pH<7. After removal of the tetrahydrofuran in vacuo, the aqueous phase was extracted with ethyl acetate (3×50 mL). The organic layers were combined, dried over MgSO4 and concentrated in vacuo. The residue was purified on silica gel to afford (3,4-dichloro-1,2-thiazol-5-yl)(3-thienyl)methanone [3.00 g, yield 65%; HPLC/MS: m/z=264 (M+H); log P(HCOOH)=3.31].

reactant | 3,4-dichloro-N-methoxy-N-methyl-1,2-thiazole-5-carboxamide | 15.7 mmol, 3.80 g | ClC1=NSC(=C1Cl)C(=O)N(C)OC | C6H6Cl2N2O2S
reactant | iodo(3-thienyl)magnesium | I[Mg]C1=CSC=C1
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 47.4 mmol, 0.3 M, 158 mL | O1CCCC1 | C4H8O
product | (3,4-dichloro-1,2-thiazol-5-yl)(3-thienyl)methanone | 3.00 g, yield 65% | ClC1=NSC(=C1Cl)C(=O)C1=CSC=C1 | C8H3Cl2NOS2
